US09353107B2
Step-iii: 5-(4-(piperidin-4-yl)phenyl)-3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (120 mg, 0.224 mmol) was deprotected in TFA/methanol (5/5 ml). This afforded 15 mg (12% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.76 (s, 2H), 8.56-8.55 (d, 2H), 8.36-8.34 (m, 2H), 8.02 (s, 1H), 7.95-7.91 (m, 1H), 7.75-7.72 (m, 3H), 7.45-7.42 (m, 2H), 5.66 (s, 2H), 3.56-3.51 (d, 2H), 3.22-3.14 (t, 2H), 3.10-2.99 (m, 1H), 2.16-2.11 (d, 2H), 2.03-1.93 (td, 2H). MS: m/z=435.2 (M+1), HPLC: 97.0% in method A.

reactant | tert-butyl 4-(4-(3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.224 mmol, 120 mg | N1=CC(=CC=C1)CN1N=CC(=C1)C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C32H34N6O2
solvent | TFA methanol | 5 ml | C(=O)(C(F)(F)F)O.CO
product | 5-(4-(piperidin-4-yl)phenyl)-3-(1-(pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 15 mg, 12% yield | N1CCC(CC1)C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC=2C=NC=CC2 | C27H26N6
